US06936602B1
In ethyl acetate (50 ml) was dissolved methyl 7-bromo-1-(t-butoxycarbonyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1.5 g). To the solution was added 6N hydrochloric acid (2 ml), and the mixture was heated to stir at 80° C. for 2 hours, neutralized with 1N sodium hydroxide solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated to give methyl 7-bromo-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1.0 g) as yellow crystals.

reactant | methyl 7-bromo-1-(t-butoxycarbonyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1.5 g | BrC=1C=CC2=C(C=C(CCN2C(=O)OC(C)(C)C)C(=O)OC)C1 | C17H20BrNO4
reactant | hydrochloric acid | 6N, 2 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | methyl 7-bromo-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1.0 g | BrC=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C12H12BrNO2
